US07199147B2
Ammonium formate (250 mg) and 10%-Pd/C (50 mg) were added to a solution of benzyl 4-[(1H-indazol-5-ylamino)sulfonyl]piperidine-1-carboxylate (250 mg, 0.603 mmol) in ethanol (15 ml) at room temperature, and the resulting mixture was refluxed for 1 hour. The reaction mixture was filtered by the use of Celite, and the filtrate was concentrated and the resulting residue was dissolved in a mixture of chloroform and methanol, followed by adding thereto diethyl ether. The solid precipitated was collected by filtration and dried under reduced pressure to obtain N-(1H-indazol-5-yl)piperidine-4-sulfonamide (116 mg, 69%).

reactant | Ammonium formate | 250 mg | C(=O)[O-].[NH4+]
reactant | benzyl 4-[(1H-indazol-5-ylamino)sulfonyl]piperidine-1-carboxylate | 0.603 mmol, 250 mg | N1N=CC2=CC(=CC=C12)NS(=O)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H22N4O4S
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-(1H-indazol-5-yl)piperidine-4-sulfonamide | 116 mg, 69% | N1N=CC2=CC(=CC=C12)NS(=O)(=O)C1CCNCC1 | C12H16N4O2S
